US07067517B2
Methyl-phenyl-carbamic acid 4-(2-thioxo-2H-pyridin-1-ylmethyl)-phenyl ester
The title compound was prepared in 14% yield as an oil using methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester and 2-mercaptopyridine. HPLC-MS: m/z=351.1 (M+1); Rt=3.95 min.

reactant | methyl-phenyl-carbamic acid 4-hydroxymethyl-phenyl ester | OCC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C15H15NO3
reactant | 2-mercaptopyridine | SC1=NC=CC=C1 | C5H5NS
product | Methyl-phenyl-carbamic acid 4-(2-thioxo-2H-pyridin-1-ylmethyl)-phenyl ester | 14% yield | S=C1N(C=CC=C1)CC1=CC=C(C=C1)OC(N(C1=CC=CC=C1)C)=O | C20H18N2O2S
